US04064247
(S)-7-Nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (16 g.) is dissolved in methyl iodide (800 cc.). After 15 hours at a temperature of about 20° C., the crystals which have appeared are filtered off, washed with diethyl ether (2 × 30 cc.) and then dried at 20° C., under reduced pressure (1 mm.Hg). (S)-3-Methylthio-7-nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (23.3 g.) is thus obtained.

reactant | (S)-7-Nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 16 g | [N+](=O)([O-])C=1C=CC=2C[C@@H]3N(CC2C1)C(SC3)=S | C11H10N2O2S2
reactant | methyl iodide | 800 cc | CI | CH3I
product | (S)-3-Methylthio-7-nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 23.3 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=C(C=CC1C2)[N+](=O)[O-] | InChI=1S/C12H13N2O2S2.HI/c1-17-12-13-6-9-5-10(14(15)16)3-2-8(9)4-11(13)7-18-12;/h2-3,5,11H,4,6-7H2,1H3;1H/q+1;/p-1/t11-;/m0./s1
